US05565479
2-(4-Imidazolylmethyl)-5-methyl-4,5-dihydronaphtho[1,2-d]-thiazole
Starting compounds: 2-bromo-4-methyl-1-tetralone, 4-imidazolyl thioacetamide hydrochloride

reactant | 2-bromo-4-methyl-1-tetralone | BrC1C(C2=CC=CC=C2C(C1)C)=O | C11H11BrO
reactant | 4-imidazolyl thioacetamide hydrochloride | Cl.N1C=NC(=C1)CC(=S)N
product | 2-(4-Imidazolylmethyl)-5-methyl-4,5-dihydronaphtho[1,2-d]-thiazole | N1C=NC(=C1)CC=1SC2=C(N1)C1=CC=CC=C1C(C2)C | C16H15N3S
